US09145414B2
Tert-butylamine (2 mL) was added to a solution of 2,4-dinitrobenzaldehyde (1.96 g) in ethanol (10 mL), and the reaction solution was stirred at 40° C. for 30 minutes. The solvent was evaporated under vacuum, then tert-butylamine (1 mL) was added to the resultant residue, and the reaction solution was heated at 50° C. for 30 minutes. The solvent was evaporated under vacuum, then trimethyl phosphite (6 mL) was added, and the reaction solution was stirred at 110° C. for 1 hour. The solvent was evaporated under vacuum, and the resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate). Thereafter, isopropyl ether was added to the resultant residue, and the precipitate was filtrated to obtain 2-(tert-butyl)-6-nitro-2H-indazole as a white solid.

reactant | Tert-butylamine | 2 mL | C(C)(C)(C)N | C4H11N
reactant | 2,4-dinitrobenzaldehyde | 1.96 g | [N+](=O)([O-])C1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C7H4N2O5
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(tert-butyl)-6-nitro-2H-indazole | C(C)(C)(C)N1N=C2C=C(C=CC2=C1)[N+](=O)[O-] | C11H13N3O2
